US08067457B2
To a solution of 1-(4-methoxyphenyl)piperidin-4-one (5.65 g, 27.6 mmol) and (R)-tert-butyl pyrrolidin-3-ylcarbamate (5.65 g, 30.3 mmol) in MeOH (200 mL) was added STAB (10.49 g, 49.5 mmol) in small portions. The reaction mixture was stirred overnight, then was concentrated to 1/10 of the original volume. NaOH (100 mL, 1N aqueous) and CH2Cl2 (100 mL) were added and the organic layer was washed with brine, dried over Mg2SO4, filtered and concentrated. Upon the addition of ether, tert-butyl {(3R)-1-[1-(4-methoxyphenyl)piperidin-4-yl]pyrrolidin-3-yl}carbamate (6.98 g, yield 67.5%) precipitated as a white solid. The resulting solid was dissolved in CH2Cl2 (50 mL) to which was added 4N HCl/dioxane (50 mL). After 2 h at room temperature, ether was added until (3R)-1-[1-(4-methoxyphenyl)piperidin-4-yl]pyrrolidin-3-amine precipitated (as the HCl salt) from the solution, and was collected by filtration as a white solid (6.40 g, 52% over 2 steps).

reactant | 1-(4-methoxyphenyl)piperidin-4-one | 27.6 mmol, 5.65 g | COC1=CC=C(C=C1)N1CCC(CC1)=O | C12H15NO2
reactant | (R)-tert-butyl pyrrolidin-3-ylcarbamate | 30.3 mmol, 5.65 g | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | ether | CCOCC | C4H10O
solvent | MeOH | 200 mL | CO | CH4O
product | tert-butyl {(3R)-1-[1-(4-methoxyphenyl)piperidin-4-yl]pyrrolidin-3-yl}carbamate | 6.98 g, yield 67.5% | COC1=CC=C(C=C1)N1CCC(CC1)N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C21H33N3O3
